US07858632B2
(6-Isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-acetonitrile was prepared from 6-isopropyl-1,3-dimethyl-1H-indol-5-ol by treatment with iodoacetonitrile using the procedure of step 5 of Example 2 above.

reactant | 6-isopropyl-1,3-dimethyl-1H-indol-5-ol | C(C)(C)C1=C(C=C2C(=CN(C2=C1)C)C)O | C13H17NO
reactant | iodoacetonitrile | ICC#N | C2H2IN
product | (6-Isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-acetonitrile | C(C)(C)C1=C(C=C2C(=CN(C2=C1)C)C)OCC#N | C15H18N2O
